US06881844B2
A mixture of 1-(1-butyl-6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (283.7 mg, 0.81 mmol) in a 20% aqueous sodium hydroxide solution (2.7 mL) was heated under reflux for 17 h. At this time, the reaction was cooled to 25° C. and was diluted with water (75 mL). This mixture was extracted with diethyl ether (1×50 mL). The aqueous layer was acidified to pH=1 with concentrated hydrochloric acid and then extracted with ethyl acetate (1×75 mL). The combined organic layers were washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 1-butyl-6-chloro-1H-indole-3-carboxylic acid (141.4 mg, 69.6%) as a pale orange solid: mp 149-151° C.; EI-HRMS m/e calcd for C13H14ClNO2 (M+) 251.0713, found 251.0721.

reactant | 1-(1-butyl-6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 0.81 mmol, 283.7 mg | C(CCC)N1C=C(C2=CC=C(C=C12)Cl)C(C(F)(F)F)=O | C14H13ClF3NO
reactant | sodium hydroxide | 2.7 mL | [OH-].[Na+]
solvent | water | 75 mL | O | H2O
product | 1-butyl-6-chloro-1H-indole-3-carboxylic acid | 141.4 mg, 69.6% | C(CCC)N1C=C(C2=CC=C(C=C12)Cl)C(=O)O | C13H14ClNO2
